US08486967B2
b) 5-Bromo-1-(3-(tert-butyldimethylsilyloxy)-1-phenylpropyl)-3-nitro-1H-1,2,4-triazole
A solution of (3-bromo-3-phenylpropoxy)(tert-butyl)dimethylsilane (934 mg, 2.84 mmol) in acetonitrile (27 mL) was stirred at room temperature under an atmosphere of nitrogen with sodium iodide (425 mg, 2.84 mmol) for 15 minutes. Potassium carbonate (560 mg, 4.05 mmol) was added and the reaction was heated 60° C. At this temperature 5-bromo-3-nitro-1H-1,2,4-triazole (532 mg, 2.7 mmol) dissolved in acetonitrile (5.3 mL) was added within 30 minutes. The reaction was stirred for 2 hours at 85° C. Water was added and the aqueous phase was extracted twice with ethyl acetate. The combined organic layers were washed with saturated aqueous sodium chloride solution, dried over sodium sulfate, filtered and the solvent was evaporated under reduced pressure. The title compound was obtained as a colorless viscous oil (510 mg, 42%) after column chromatography on silica gel using a gradient from heptane to heptane/ethyl acetate 4:1 (v/v) as eluent. 1H NMR (CDCl3, 300 MHz): δ (ppm)=7.42-7.36 (m, 5H), 5.91 (dd, 1H), 3.58 (m, 1H), 3.48 (m, 1H), 2.72 (m, 1H), 2.39 (m, 1H), 0.91 (s, 9H), 0.00 (s, 6H).

reactant | (3-bromo-3-phenylpropoxy)(tert-butyl)dimethylsilane | 2.84 mmol, 934 mg | BrC(CCO[Si](C)(C)C(C)(C)C)C1=CC=CC=C1 | C15H25BrOSi
reactant | sodium iodide | 2.84 mmol, 425 mg | [I-].[Na+]
reactant | Potassium carbonate | 4.05 mmol, 560 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 5-bromo-3-nitro-1H-1,2,4-triazole | 2.7 mmol, 532 mg | BrC1=NC(=NN1)[N+](=O)[O-] | C2HBrN4O2
solvent | acetonitrile | 27 mL | C(C)#N | C2H3N
solvent | acetonitrile | 5.3 mL | C(C)#N | C2H3N
solvent | Water | O | H2O
product | 5-Bromo-1-(3-(tert-butyldimethylsilyloxy)-1-phenylpropyl)-3-nitro-1H-1,2,4-triazole | BrC1=NC(=NN1C(CCO[Si](C)(C)C(C)(C)C)C1=CC=CC=C1)[N+](=O)[O-] | C17H25BrN4O3Si
